US06191150B1
A suspension of 100 g (1.33 mol) of glycine in 450 mL of TFA is treated with 385 mL (2.73 mol) of trifluoroacetic anhydride. The mixture is allowed to stir for 1.5 h. The mixture is concentrated in vacuo and is treated with 1 L of 1:1 chloroform-hexanes. The slurry is concentrated in vacuo, treated with 1 L of EtOAc, warmed, then allowed to cool to 25° C. and then to 4° C. The solid is collected and dried to afford 89.21 g of N-trifluoroacetylglycine as a solid. The filtrate is concentrated in vacuo, treated with EtOAc, warmed, and allowed to cool to 25° C. Collection of the solid affords a further 58.08 g of N-trifluoroacetylglycine.

reactant | glycine | 1.33 mol, 100 g | NCC(=O)O | C2H5NO2
reactant | trifluoroacetic anhydride | 2.73 mol, 385 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | TFA | 450 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-trifluoroacetylglycine | 89.21 g | FC(C(=O)NCC(=O)O)(F)F | C4H4F3NO3
